US04079181
To a solution of p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-hydroxyethylidene)acetate (504 mg) in tetrahydrofuran (8 ml) are added dropwise methanesulfonyl chloride (0.13 ml) and triethylamine (0.23 ml) under ice cooling. After 3 hours, the mixture is evaporated to leave residue, which is dissolved in methylene chloride, washed with water, dried over magnesium sulfate, and evaporated. Purification of the residue by chromatography over silica gel containing 10% water (15 g) using a mixture of benzene and ethyl acetate (5:1) gives p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-methanesulfonyloxyethylidene)acetate (353 mg). Colorless foam.

reactant | p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-hydroxyethylidene)acetate | 504 mg | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)O)=O | C22H19N3O7S
reactant | methanesulfonyl chloride | 0.13 ml | CS(=O)(=O)Cl | CH3ClO2S
reactant | triethylamine | 0.23 ml | C(C)N(CC)CC | C6H15N
solvent | tetrahydrofuran | 8 ml | O1CCCC1 | C4H8O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | p-nitrobenzyl α-[3-phenoxymethyl-7-oxo-4-thia-2,6-diazabicyclo[3,2,0]hept-2-en-6-yl]-α-(1-methanesulfonyloxyethylidene)acetate | 353 mg | O(C1=CC=CC=C1)CC1=NC2C(N(C2S1)C(C(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])=C(C)OS(=O)(=O)C)=O | C23H21N3O9S2
